US05158961
(-)-trans-3-(2-bromo-4,5-methylenedioxyphenoxymethyl)-1-butyl-4-(4-fluorophenyl)-piperidine hydrochloride
(-)-trans-1-butyl-4-(4-fluorophenyI)-3-(3,4-methylenedioxyphenoxymethyl)-piperidine hydrochloride (1 g) was dissolved in CH2Cl2 (50 ml). Bromine (0.124 ml) was added dropwise at R.T. After stirring for 2 h aqueous NaOH was added, and the CH2Cl2 layer was isolated, dried over Na2SO4, filtered and evaporated to dryness. The residue was dissolved in acetone, excess conc. HCl was added and the above mentioned bromo compound was precipitated by addition of ether. M.p. 116° C.

reactant | (-)-trans-1-butyl-4-(4-fluorophenyI)-3-(3,4-methylenedioxyphenoxymethyl)-piperidine hydrochloride | 1 g | Cl.C(CCC)N1C[C@H]([C@@H](CC1)C1=CC=C(C=C1)F)COC1=CC2=C(C=C1)OCO2
reactant | Bromine | 0.124 ml | BrBr | Br2
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (-)-trans-3-(2-bromo-4,5-methylenedioxyphenoxymethyl)-1-butyl-4-(4-fluorophenyl)-piperidine hydrochloride | Cl.BrC1=C(OC[C@@H]2CN(CC[C@H]2C2=CC=C(C=C2)F)CCCC)C=C2C(=C1)OCO2 | InChI=1S/C23H27BrFNO3.ClH/c1-2-3-9-26-10-8-19(16-4-6-18(25)7-5-16)17(13-26)14-27-21-12-23-22(11-20(21)24)28-15-29-23;/h4-7,11-12,17,19H,2-3,8-10,13-15H2,1H3;1H/t17-,19-;/m0./s1
